US08563575B2
The mixture of 5-nitropyrimidin-4-ol (1.04 g) and phosphorus oxychloride (5.66 g) in acetonitrile (10 mL) was stirred at reflux for 2 h. After this time, the reaction mixture was cooled to ambient temperature, diluted with ethyl acetate (50 mL), and filtered and the filtrate was concentrated under reduced pressure. The residue obtained was diluted with ethyl acetate (100 mL), washed with saturated aqueous sodium bicarbonate (50 mL) then brine (50 mL), and filtered and the filtrate was concentrated under reduced pressure. The residue obtained was purified by chromatography (silica, heptane to 1:3 ethyl acetate/heptane) to afford 4-chloro-5-nitropyrimidine (383 mg, 33%) as a colorless oil.

reactant | 5-nitropyrimidin-4-ol | 1.04 g | [N+](=O)([O-])C=1C(=NC=NC1)O | C4H3N3O3
reactant | phosphorus oxychloride | 5.66 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-chloro-5-nitropyrimidine | 383 mg, 33% | ClC1=NC=NC=C1[N+](=O)[O-] | C4H2ClN3O2
